US08022206B2
3-Acetylbenzamide
General Procedure FF: Into DMF (11 ml, 140 mmol) solution of 3-acetylbenzoic acid (706 mg, 4.30 mmol) which was cooled in ice/water bath was added triethylamine (602 μl, 4.30 mmol) followed by addition of ethyl chloroformate (424 μl, 4.30 mmol) dropwise in 5 min under an atmosphere of nitrogen. The mixture was stirred at 0° C. for 30 min and then at rt for 30 min. Ammonium hydroxide (28% aq. solution; 1.15 ml) was added, and the mixture was stirred at rt for 3 h. After that time, the mixture was poured into ice/water, extracted with EtOAc (3×50 ml). The extracts were washed with water (2×30 ml), brine (30 ml), dried over MgSO4, filtered and concentrated in vacuo, giving the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ=2.66 (s, 3H), 7.58 (dt, J=0.4 & 8.0 Hz, 1H), 8.05 (md, J=8.0 Hz, 1H), 8.12 (md, J=8.0 Hz, 1H), 8.38-8.41 (m, 1H). MS (ES+): m/z 164.10 [MH+]. HPLC: tR=1.89 min (polar—5 min, ZQ3).

reactant | DMF | 140 mmol, 11 ml | CN(C)C=O | C3H7NO
reactant | 3-acetylbenzoic acid | 4.30 mmol, 706 mg | C(C)(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O3
reactant | triethylamine | 4.30 mmol, 602 μl | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 4.30 mmol, 424 μl | ClC(=O)OCC | C3H5ClO2
reactant | Ammonium hydroxide | 1.15 ml | [OH-].[NH4+]
product | 3-Acetylbenzamide | C(C)(=O)C=1C=C(C(=O)N)C=CC1 | C9H9NO2
